US04952574
Using the general method of Example I Part A, 4.7 g (0.014 mole) of 2-hydroxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide was reacted with 2.3 g (0.013 mole) of 5-bromovaleramide to give 3.7 g of white powdery 2-(4-carbamoylbutoxy)-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide, m.p. 178°-180° C. Analysis: Calculated for C20H22F3N3O4 : %C, 56.5; %H, 5.2; %N, 9.9; Found: %C, 56.7; %H, 5.2; %N, 9.9.

reactant | 2-hydroxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide | 0.014 mole, 4.7 g | OC1=C(C(=O)NCC2=NC=CC=C2)C=C(C=C1)OCC(F)(F)F | C15H13F3N2O3
reactant | 5-bromovaleramide | 0.013 mole, 2.3 g | BrCCCCC(=O)N | C5H10BrNO
product | 2-(4-carbamoylbutoxy)-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide | 3.7 g | C(N)(=O)CCCCOC1=C(C(=O)NCC2=NC=CC=C2)C=C(C=C1)OCC(F)(F)F | C20H22F3N3O4
